US04062858
a. 1-Ethyl-6-methyl-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]-pyridin-4-ol
33 g. of 5-amino-1-ethylpyrazole (0.3 mol.) in 310 g. of polyphosphoric acid are heated to 80° (bath temperature). While stirring, 70.5 g. of 2-(2-phenylethyl)acetoacetic acid, ethyl ester (0.3 mol.) are added to the mixture. The bath temperature is increased to 100°, the temperature of the solution rising to about 130°. As soon as the reaction temperature begins to drop the bath temperature is elevated to 140° and maintained for 45 minutes. After the mixture has cooled to room temperature, 650 ml. of water are added in portions and stirring is continued until the polyphosphoric acid is dissolved. The the aqueous phosphoric acid solution is decanted and the undissolved residue is treated with 400 ml. of 5% aqueous ammonia to neutralize the mixture. The mixture is extracted with chloroform and the chloroform extract is washed with water and dried with Na2SO4. Addition of ether precipitates 37 g. (44%) of 1-ethyl-6-methyl-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridin-4-ol; m.p. 251°-256°. Recrystallization from ethanol raises the m.p. to 258°-260°.

reactant | 5-amino-1-ethylpyrazole | 0.3 mol | NC1=CC=NN1CC | C5H9N3
reactant | 2-(2-phenylethyl)acetoacetic acid, ethyl ester | 0.3 mol | C1(=CC=CC=C1)CCC(C(=O)OCC)C(=O)C | C14H18O3
solvent | water | O | H2O
product | 1-Ethyl-6-methyl-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]-pyridin-4-ol | C(C)N1N=CC2=C1N=C(C(=C2O)CCC2=CC=CC=C2)C | C17H19N3O
